US07915261B2
TEA (0.90 ml) was dropwise added to an acetonitrile (30 ml) suspension of N-(2-bromoethyl)-3-(2-piperidin-4-ylethyl)benzamide hydrochloride (1.20 g) and methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate (1.02 g), followed by stirring overnight at room temperature. The reaction solvent was evaporated under reduced pressure, then aqueous saturated sodium hydrogencarbonate solution was added thereto, extracted with EtOAc, and dried over anhydrous magnesium sulfate. This was filtered, the solvent was evaporated, and the residue was purified two times through silica gel column chromatography (basic silica with eluent: hexane:EtOAc=1:2 (v/v), next neutral silica with eluent: chloroform:methanol=19:1 (v/v)) to obtain methyl 5-[{(4-[2-(3-{[(2-bromoethyl)amino]carbonyl}phenyl)ethyl]piperidin-1-yl}carbonyl)oxy]nicotinate (762 mg) as a white powder.

reactant | N-(2-bromoethyl)-3-(2-piperidin-4-ylethyl)benzamide hydrochloride | 1.20 g | Cl.BrCCNC(C1=CC(=CC=C1)CCC1CCNCC1)=O
reactant | methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate | 1.02 g | [N+](=O)([O-])C1=CC=C(OC(=O)OC=2C=NC=C(C(=O)OC)C2)C=C1 | C14H10N2O7
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | methyl 5-[{(4-[2-(3-{[(2-bromoethyl)amino]carbonyl}phenyl)ethyl]piperidin-1-yl}carbonyl)oxy]nicotinate | 762 mg | BrCCNC(=O)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)OC)C1 | C24H28BrN3O5
